### PR TITLE
[Merged by Bors] - chore: split `Algebra/BigOperators/Group/{Multiset,Finset}`

### PR DESCRIPTION
**Pull request by kim-em**
Follow on from #20625.

Keeps only what is possible with the minimal imports required for the definitions themselves in the `Defs` file, and everything else moves to `Lemmas`.

### CODE REVIEW

**Comment by kim-em** [comment]
Still needs a `shake`.

**Review by Ruben-VandeVelde — APPROVED** [review]
I tried to fix the matrix test again; otherwise this seems sensible enough to me.

maintainer delegate

**Comment by YaelDillies** [comment]
Nice decrease! Can we get a few sentences explanation of the split in the PR description?

File: Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean [hunk 1]
```diff
@@ -1081,23 +692,11 @@ theorem prod_ite {s : Finset α} {p : α → Prop} {hp : DecidablePred p} (f g :
...
   simp [prod_apply_ite _ _ fun x => x]
 
-@[to_additive]
-lemma prod_dite_of_false {p : α → Prop} {_ : DecidablePred p} (h : ∀ i ∈ s, ¬ p i)
-    (f : ∀ i, p i → β) (g : ∀ i, ¬ p i → β) :
-    ∏ i ∈ s, (if hi : p i then f i hi else g i hi) = ∏ i : s, g i.1 (h _ i.2) := by
-  refine prod_bij' (fun x hx => ⟨x, hx⟩) (fun x _ ↦ x) ?_ ?_ ?_ ?_ ?_ <;> aesop
-
 @[to_additive]
 lemma prod_ite_of_false {p : α → Prop} {_ : DecidablePred p} (h : ∀ x ∈ s, ¬p x) (f g : α → β) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:696]: May I suggest that something is wrong if the `ite` and `dite` versions of the same lemma find themselves in different files?

Comment (kim-em) [reply Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean:696]: I disagree that this is wrong, but have postponed the `dite` versions into the file with the `ite` versions.

Very happy if someone wants to go through and reduce the import requirements of proofs and then move lemmas upstream, but that's not on the agenda here.

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean]: What "agenda"? What's the greater context for reducing imports here?

Comment (kim-em) [reply Mathlib/Algebra/BigOperators/Group/Finset/Basic.lean]: "not on the agenda" meaning I'm not interesting in rewriting proofs in this file during this PR.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
